US07141567B2
LL. 2-Hydroxymethyl-3-methyl-8-pivaloylaminoimidazo[1,2-a]pyridine
To a solution of 36.6 g of 2-methoxycarbonyl-3-methyl-8-pivaloylaminoimidazo[1,2-a]pyridine in 400 ml of dry tetrahydrofuran are added 5.5 g of lithium aluminium hydride at ambient temperature over a period of 1 h. The reaction mixture is then carefully hydrolysed with 15 ml water and 16 ml 15% sodium hydroxide solution. The precipitate is removed by filtration and washed thoroughly with tetrahydrofuran. The filtrate is washed with 100 ml saturated ammonium chloride solution and concentrated in vacuo. The residue is dissolved in 400 ml tetrahydrofuran/toluene 1:1 (v/v) and the solvent distilled off at 80° C. The precipitate is filtered off and dried in vacuo to yield 27.2 g (83%) of the title compound (m.p. 186–187° C.).

reactant | 2-methoxycarbonyl-3-methyl-8-pivaloylaminoimidazo[1,2-a]pyridine | 36.6 g | COC(=O)C=1N=C2N(C=CC=C2NC(C(C)(C)C)=O)C1C | C15H19N3O3
reactant | lithium aluminium hydride | 5.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 15 ml | O | H2O
reactant | sodium hydroxide | 16 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | 2-Hydroxymethyl-3-methyl-8-pivaloylaminoimidazo[1,2-a]pyridine | 27.2 g, 83% | OCC=1N=C2N(C=CC=C2NC(C(C)(C)C)=O)C1C | C14H19N3O2
